US09315475B2
Step 3. Preparation of tert-Butyl(2R,5R)-2,5-bis {2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenyl propanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate
(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoic acid (1.2 equiv), HATU (1.4 equiv) and 2,6-lutidine (2.0 equiv) were combined in DMF (0.2 M vs aniline). tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate (1.0 equiv) was dissolved in DMF (0.11 M) and was added to the reaction mixture. The reaction was stirred at room temperature for 18 h and ethyl acetate and saturated sodium bicarbonate were added. Aqueous layer was extracted twice with ethyl acetate and combined organic layers were washed with brine, 10% aqueous lithium chloride, 1N HCl, brine, dried (Na2SO4), filtered and concentrated. The crude product was purified using automated silica-gel flash chromatography using a solvent gradient of 5% to 60% of ethyl acetate and hexanes.

reactant | (2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoic acid | 1.2 equiv | COC(=O)N[C@H](C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO4
reactant | HATU | 1.4 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,6-lutidine | 2.0 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-Butyl(2R,5R)-5-[2-(2-aminophenyl)ethyl]-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate | 1.0 equiv | NC1=C(C=CC=C1)CC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O | C42H50N4O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
solvent | DMF | 0.11 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl(2R,5R)-2,5-bis {2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenyl propanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate | COC(=O)N[C@H](C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O)C(=O)OC(C)(C)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C59H65N5O9
